US04146721
By a method analogous to that described in Example 28, 1-phenyl-3-(p-methoxyphenyl)-1,3-propanedione was reacted with bromoacetic acid-ethyl ester to form 3-benzoyl-3-p-anisoyl-propionic acid-ethyl ester, which was further reacted with phenylhydrazine to form 1,3-diphenyl-5-(p-methoxyphenyl)-pyrazol-4-acetic acid-ethyl ester, from which was obtained by saponification 1,3-diphenyl-5-(p-methoxyphenyl)-pyrazol-4-acetic acid having a melting point of 160°-163° C.

reactant | 1-phenyl-3-(p-methoxyphenyl)-1,3-propanedione | C1(=CC=CC=C1)C(CC(=O)C1=CC=C(C=C1)OC)=O | C16H14O3
reactant | bromoacetic acid-ethyl ester | C(C)OC(CBr)=O | C4H7BrO2
product | 3-benzoyl-3-p-anisoyl-propionic acid-ethyl ester | C(C)OC(CC(C(C1=CC=C(C=C1)OC)=O)C(C1=CC=CC=C1)=O)=O | C20H20O5
